US09107916B2
Preparation 3: 2-Hydrazinylpyridine-4-carbonitrile hydrochloride salt
To a solution of 2-hydrazinylpyridine-4-carbonitrile (2.13 g, 16 mmol, PREPARATION 2) in EtOAc (10 mL) was added HCl (4 M in EtOAc, 15 mL) at rt. It was then stirred at rt for 30 min. The reaction mixture was filtered and washed with EtOAc and dried to give the title compound (3.13 g, 95%) as a yellow solid.

reactant | 2-hydrazinylpyridine-4-carbonitrile | 16 mmol, 2.13 g | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | HCl | 4 M, 15 mL | Cl | ClH
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 2-Hydrazinylpyridine-4-carbonitrile hydrochloride salt | 3.13 g, 95% | Cl.N(N)C1=NC=CC(=C1)C#N | InChI=1S/C6H6N4.ClH/c7-4-5-1-2-9-6(3-5)10-8;/h1-3H,8H2,(H,9,10);1H
